US04720586
(b) N-[2-[3,4-Bis(phenylmethoxy)phenyl]ethyl]-2,2,2-trifluoro-N-[6-[2-phenylethoxy]hexyl]acetamide
A solution of N-[2-[3,4-Bis(phenylmethoxy) phenyl]ethyl]-2,2,2-trifluoroacetamide (11 g) in dry dimethylformamide (30 ml) was added dropwise to a stirred suspension of sodium hydride (0.615 g) in dry dimethylformamide (20 ml) in (a) nitrogen atmosphere. The mixture was heated at 70° C. for 1 hour and then cooled to room temperature.

reactant | N-[2-[3,4-Bis(phenylmethoxy) phenyl]ethyl]-2,2,2-trifluoroacetamide | 11 g | C1(=CC=CC=C1)COC=1C=C(C=CC1OCC1=CC=CC=C1)CCNC(C(F)(F)F)=O | C24H22F3NO3
reactant | sodium hydride | 0.615 g | [H-].[Na+]
reactant | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | N-[2-[3,4-Bis(phenylmethoxy)phenyl]ethyl]-2,2,2-trifluoro-N-[6-[2-phenylethoxy]hexyl]acetamide | C1(=CC=CC=C1)COC=1C=C(C=CC1OCC1=CC=CC=C1)CCN(C(C(F)(F)F)=O)CCCCCCOCCC1=CC=CC=C1 | C38H42F3NO4
